US06660753B2
A solution of methyl-3-cyano-5-dimethylaminobenzoate (318 mg, 1.6 mmol) in tetrahydrofuran (5 mL) was treated with 0.5 N lithium hydroxide (3.7 mL, 1.9 mmol). The reaction was stirred at 70° C. for 30 minutes and then the solvent was removed in vacuo. The residue was dissolved in a small amount of water and then acidified by the dropwise addition of 2 N hydrogen chloride until a white precipitate no longer formed. Following extraction of the aqueous layer with diethyl ether, the organic layer was then washed with water and saturated brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford 308 mg (quantitative) of 3-cyano-5-dimethylaminobenzoic acid.

reactant | methyl-3-cyano-5-dimethylaminobenzoate | 1.6 mmol, 318 mg | COC(C1=CC(=CC(=C1)N(C)C)C#N)=O | C11H12N2O2
reactant | lithium hydroxide | 1.9 mmol, 0.5 N, 3.7 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-cyano-5-dimethylaminobenzoic acid | 308 mg | C(#N)C=1C=C(C(=O)O)C=C(C1)N(C)C | C10H10N2O2
